US07700586B2
To a solution of 4-chloro-3-(chlorosulfonyl)benzoic acid (200 mg, 0.784 mmol) and Et3N (130 μl, 0.938 mmol) in CH2Cl2 (5 ml) was added 1-(t-butoxycarbonyl)piperazine (161 mg, 0.864 mmol) at 0° C. This mixture was stirred at room temperature overnight, and then diluted with CH2Cl2, washed with 10% citric acid solution. The organic layer was dried over anhydrous Na2SO4, filtered, and concentrated. The residue was suspended in Et2O, and the precipitate was collected by filtration to give crude 3-{[4-(tert-butoxycarbonyl)-1-piperazinyl]sulfonyl}-4-chlorobenzoic acid (200 mg, 63.0%).

reactant | 4-chloro-3-(chlorosulfonyl)benzoic acid | 0.784 mmol, 200 mg | ClC1=C(C=C(C(=O)O)C=C1)S(=O)(=O)Cl | C7H4Cl2O4S
reactant | Et3N | 0.938 mmol, 130 μl | CCN(CC)CC | C6H15N
reactant | 1-(t-butoxycarbonyl)piperazine | 0.864 mmol, 161 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 3-{[4-(tert-butoxycarbonyl)-1-piperazinyl]sulfonyl}-4-chlorobenzoic acid | 200 mg, 63.0% | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1Cl | C16H21ClN2O6S
